US06018056
Preparation of 6-Methoxy -2-(4-Methoxyphenyl)benzo [b] thiophene-3-Carboxylic Acid
To methanol (25 ml) and water (10 ml) is added 2.5 N potassium hydroxide in methanol (7 ml, 18.5 mmol) and 6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid methyl ester (2.00 g, 6.09 mmol). The contents are heated to reflux for 16 hours, then cooled and poured into a solution of 1 N hydrochloric acid (50 ml). The resulting slurry is further diluted with water (75 ml), then filtered, and the filter cake rinsed with water, and dried in vacuo to afford 1.86 g (97%) of title compound. IR (KBr) 3100-2400 (br), 2935, 1673, 1608, 1527, 1433, 1250, 1178, 1030, 828 cm-1 ; 1H NMR (CDCl3 /DMSO-d6): δ8.27 (d, 1 H, J=9.0 Hz), 7.49 (d, 2 H, J=8.5 Hz), 7.26 (d, 1 H, J=1.7 Hz), 7.06 (dd, 1 H, J=9.0, 1.7 Hz), 6.93 (d, 2 H, J=8.5 Hz), 3.87 (s, 3 H), 3.84 (s, 3 H); 13C NMR (CDCl3 /DMSO-d6): d 166.0, 160.1, 157.6, 148.5, 139.8, 133.2, 131.0, 126.6, 125.7, 123.0, 115.1, 113.8, 104.3, 55.7, 55.5. Anal. Calcd. for C17H14O4S: C, 64.95; H, 4.49; S, 10.20. Found: C, 64.72; H, 4.49; S, 10.40.

reactant | methanol | 25 ml | CO | CH4O
reactant | potassium hydroxide | 2.5 N | [OH-].[K+]
reactant | methanol | 18.5 mmol, 7 ml | CO | CH4O
reactant | 6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid methyl ester | 6.09 mmol, 2.00 g | COC(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=C(C=C2)OC | C18H16O4S
reactant | hydrochloric acid | 1 N, 50 ml | Cl | ClH
solvent | water | 75 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 6-Methoxy -2-(4-Methoxyphenyl)benzo [b] thiophene-3-Carboxylic Acid | 1.86 g, 97% | COC=1C=CC2=C(SC(=C2C(=O)O)C2=CC=C(C=C2)OC)C1 | C17H14O4S
